US06576766B1
(c) 5-(1-Azido-1-methylethyl)-2-(2-methylpropyloxy)benzamide
To a mixture of NaN3 (3.96 g, 60.9 mmol) in a solution of 5-(1-Hydroxy-1-methylethyl)-2-(2-methylpropyloxy)benzamide (5.1 g, 20.3 mmol) in CHCl3 (160 mL) at 0° C. under N2 was slowly added TFA (7.8 mL, 101 mmol). The reaction mixture was stirred overnight while slowly warming to rt. The thick slurry was then poured into H2O (100 mL). The layers were separated, and the organic layer was washed with additional H2O (100 mL) and brine (100 mL). The aqueous washes were reextracted with EtOAc, and the combined extracts were dried over MgSO4 and concentrated. The material was purified by flash chromatography on silica gel. Elution with 2:1 hexanes-EtOAc produced product that was still contaminated with TFA. The product was dissolved in EtOAc and washed with half-saturated aqueous NaHCO3 (100 mL) and saturated aqueous NaHCO3 (100 mL). The aqueous washes were reextracted once with EtOAc, and the combined extracts were dried over MgSO4 and concentrated to 5.23 g (93%) of azide as a white solid which was used without further purification.

reactant | NaN3 | 60.9 mmol, 3.96 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(1-Hydroxy-1-methylethyl)-2-(2-methylpropyloxy)benzamide | 20.3 mmol, 5.1 g | OC(C)(C)C=1C=CC(=C(C(=O)N)C1)OCC(C)C | C14H21NO3
reactant | TFA | 101 mmol, 7.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2O | 100 mL | O | H2O
solvent | CHCl3 | 160 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-Azido-1-methylethyl)-2-(2-methylpropyloxy)benzamide | N(=[N+]=[N-])C(C)(C)C=1C=CC(=C(C(=O)N)C1)OCC(C)C | C14H20N4O2
